US06281218B1
4-methoxy-2-oxo-2,3-dihydrobenzimidazole-1-carboxylic Acid Phenyl Ester
To a solution of 4-methoxy-2-oxo-2,3-dihydrobenzimidazole (24 g; 0.146 mol) in pyridine (200 ml), phenylchloroformate (18.4 ml; 0.146 mol) was added dropwise. The reaction mixture was refluxed for 14 hours then was poured into ice-water. The precipitated solid was collected and dried to give the title compound. 30 g; m.p. 204-205° C.

reactant | 4-methoxy-2-oxo-2,3-dihydrobenzimidazole | 0.146 mol, 24 g | COC1=CC=CC=2NC(NC21)=O | C8H8N2O2
reactant | phenylchloroformate | 0.146 mol, 18.4 ml | C1(=CC=CC=C1)OC(=O)Cl | C7H5ClO2
solvent | pyridine | 200 ml | N1=CC=CC=C1 | C5H5N
product | 4-methoxy-2-oxo-2,3-dihydrobenzimidazole-1-carboxylic Acid Phenyl Ester | C1(=CC=CC=C1)OC(=O)N1C(NC2=C1C=CC=C2OC)=O | C15H12N2O4
